US09260408B2
[B] 1-(5-Bromo-pyridin-3-yl)-ethanone
To a solution of 5-bromo-N-methoxy-N-methyl-nicotinamide (2.08 g, 8.5 mmol) in THF (20 mL) was added MeMgBr (1.52 g, 12.75 mmol) at −78° C. After the addition, the reaction mixture was stirred at room temperature for 2 hours before quenching with water. After extraction with EtOAC, the organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was then purified by flash column chromatography to afford the title compound (1.5 g, 88%).

reactant | 5-bromo-N-methoxy-N-methyl-nicotinamide | 8.5 mmol, 2.08 g | BrC=1C=NC=C(C(=O)N(C)OC)C1 | C8H9BrN2O2
reactant | MeMgBr | 12.75 mmol, 1.52 g | C[Mg+].[Br-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(5-Bromo-pyridin-3-yl)-ethanone | 1.5 g, 88% | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
